US04215220
Reaction of 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]-imidazole with 2,4-dichlorobenzyl chloride yields 1-[3-(3,4-dichloroanilino)-2-(2,4-dichlorobenzyloxy)propyl]-imidazole. The base, purified by recrystallization from isopropanol, melts at 116°-117° C.; the methanesulfonate salt melts at 141°-143° C.

reactant | 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]-imidazole | ClC=1C=C(NCC(CN2C=NC=C2)O)C=CC1Cl | C12H13Cl2N3O
reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
product | 1-[3-(3,4-dichloroanilino)-2-(2,4-dichlorobenzyloxy)propyl]-imidazole | ClC=1C=C(NCC(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC1Cl | C19H17Cl4N3O
